* EML fabric Stage-B: sky130 npn_05v5 Gummel sweep (exp device candidate #2)
* IC(VBE) at VCE=1.5V; how many clean exponential decades?
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

XQ1 c b 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00
VC  c 0 1.5
VB  b 0 0.0

.control
set filetype=ascii
dc VB 0.1 0.95 0.002
wrdata npn_gummel_ic.csv i(VC)
echo DONE
.endc
.end
